US06458772B1
a) 4-Methoxybenzyl 2-hydroxyphenylacetate
2-hydroxyphenylacetic acid (10 g, 66 mmol) was dissolved in N,N-dimethyl-formamide (100 ml) and cooled on ice-bath. Potassium tert-butoxide (8.85 g, 78 mmol) was added. The mixture was left for 30 min and allowed to reach room temperature. 4-Methoxy-benzylchloride (11.7 g, 72 mmol) in N,N-dimethyl-formamide (30 ml) was then added dropwise, under nitrogen atmosphere and left over-night. The solvent was evaporated under reduced pressure and the crude mixture was dissolved in ether (100 ml) and washed with water (25 ml), brine and dried over sodium sulphate. Chromatography (hexane-ethyl acetate, 2:1) followed by recrystallization hexane-ethyl acetate) gave the title compound (7.6 g, 42%).

reactant | 2-hydroxyphenylacetic acid | 66 mmol, 10 g | OC1=C(C=CC=C1)CC(=O)O | C8H8O3
reactant | Potassium tert-butoxide | 78 mmol, 8.85 g | CC(C)([O-])C.[K+]
reactant | 4-Methoxy-benzylchloride | 72 mmol, 11.7 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | N,N-dimethyl-formamide | 100 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethyl-formamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-Methoxybenzyl 2-hydroxyphenylacetate | 7.6 g, 42% | OC1=C(C=CC=C1)CC(=O)OCC1=CC=C(C=C1)OC | C16H16O4
